US07034039B2
To a solution of ethyl 2-[4-butoxy-3-[[[(9H-fluoren-9-ylmethoxy)carbony]amino]ethyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate (1.70 g, 2.5 mmol) in N,N-dimethylformamide (25 ml)-tetrahydrofuran (25 ml) was added pyrrolidine (2 ml), and the mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (20 ml) and di-t-butyl dicarbonate (0.89 ml, 4 mmol) was added thereto. The obtained mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give ethyl 2-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate (1.21 g, 87.1%) as crystals.

reactant | ethyl 2-[4-butoxy-3-[[[(9H-fluoren-9-ylmethoxy)carbony]amino]ethyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate | 2.5 mmol, 1.70 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC=C(N1)C(=O)OCC)=O)CC(C)C)CCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C40H43N3O6S
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | pyrrolidine | 2 ml | N1CCCC1 | C4H9N
reactant | di-t-butyl dicarbonate | 4 mmol, 0.89 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate | 1.21 g, 87.1% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC=C(N1)C(=O)OCC)=O)CC(C)C)CNC(=O)OC(C)(C)C | C29H39N3O6S
